US05191084
N-butyl-3-[3-(cyclopentyloxy)-4-methoxyphenyl]-2-methyl-5-oxo-1-pyrazolidinecarboxamide hydrochloride
5-[3-(cyclopentyloxy)-4-methoxyphenyl]-1-methyl-3-pyrazolidinone (2.06 mmol, 0.600 g) is dissolved in dry chloroform (10 mL) in a N2 atmosphere. To this is added dropwise at room temperature butyl isocyanate (5.15 mmol; 0.583 mL) neat. The sample is heated to reflux for 4 hours at which time TLC shows no starting material. The sample is evaporated to yield a clear oil which is dissolved in ether. To this solution is added ethanolic HCl and the sample is stirred for 15 minutes and evaporated in vacuo to afford a solid which is recrystallized from chloroform and hexane to give the title compound as a white solid (0.495 mg; 56%) m.p.: 115°-122° C. (dec) 1H NMR (DMSO-d6, 400 MHz) δ8.3 (s, 1H); 7.91 (t, 3H, J=5.7 Hz); 6.95 (d, 1H, J=1.3 Hz); 6.89 (d, 1H, J=8.3 Hz); 6.81 (dd, 1H, J=8.3, 1.6 Hz); 4.68 (m, 1H); 4.35 (d, 1H, J=5.6 Hz); 3.69 (s, 3H); 3.15 (m, 2H); 2.73 (s, 3H); 1.84 (m, 2H); 1.68 (m, 3H); 1.54 (m, 2H); 1.40 (m, 2H); 1.23 (m, 3H); 0.85 (t, 2H, J=7.3 Hz). IR (KBr, cm-1) 1760

reactant | 5-[3-(cyclopentyloxy)-4-methoxyphenyl]-1-methyl-3-pyrazolidinone | 2.06 mmol, 0.600 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(NN1C)=O | C16H22N2O3
reactant | butyl isocyanate | 5.15 mmol, 0.583 mL | C(CCC)N=C=O | C5H9NO
reactant | HCl | Cl | ClH
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | N2 | N#N | N2
solvent | ether | CCOCC | C4H10O
product | N-butyl-3-[3-(cyclopentyloxy)-4-methoxyphenyl]-2-methyl-5-oxo-1-pyrazolidinecarboxamide hydrochloride | 0.495 mg, 56% | Cl.C(CCC)NC(=O)N1N(C(CC1=O)C1=CC(=C(C=C1)OC)OC1CCCC1)C | InChI=1S/C21H31N3O4.ClH/c1-4-5-12-22-21(26)24-20(25)14-17(23(24)2)15-10-11-18(27-3)19(13-15)28-16-8-6-7-9-16;/h10-11,13,16-17H,4-9,12,14H2,1-3H3,(H,22,26);1H
